US04703054
2,2-Dimethyl-1-(4-hydroxy-2-oxo-1-pyrrolidineacetyl)-4-imidazolidinone
The same procedure of Example 10, starting from 4-hydroxy-2-oxo-1-pyrrolidineacetic acid and 2,2-dimethyl-4-imidazolidinone, afforded the title compound, m.p. 250° C. (dec).

reactant | 4-hydroxy-2-oxo-1-pyrrolidineacetic acid | OC1CC(N(C1)CC(=O)O)=O | C6H9NO4
reactant | 2,2-dimethyl-4-imidazolidinone | CC1(NCC(N1)=O)C | C5H10N2O
product | 2,2-Dimethyl-1-(4-hydroxy-2-oxo-1-pyrrolidineacetyl)-4-imidazolidinone | CC1(N(CC(N1)=O)C(CN1C(CC(C1)O)=O)=O)C | C11H17N3O4
